US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[1-(1-methylpiperidin-3-yl)-1H-pyrazol-4-ylamino]quinolin-3-yl}methanone
Following general procedure F, {6-Bromo-4-[1-(1-methylpiperidin-3-yl)-1H-pyrazol-4-ylamino]quinolin-3-yl}(cyclopropyl)methanone (53 mg, 0.110 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (47 mg, 0.165 mmol) to afford the desired product (50 mg, 84%) as a green-yellow solid: 1H NMR (500 MHz, DMSO-d6) δ 10.83 (s, 1H), 9.06 (s, 1H), 8.23 (d, J=2.1 Hz, 1H), 8.04 (dd, J=8.7, 2.1 Hz, 1H), 7.93-7.85 (m, 2H), 7.50 (s, 2H), 7.43 (s, 1H), 4.22-4.12 (m, 1H), 2.94 (d, J=11.4 Hz, 2H), 2.88-2.79 (m, 1H), 2.39 (s, 3H), 2.27-2.20 (m, 2H), 2.02-1.89 (m, 4H), 1.02-0.91 (m, 4H); ESI MS m/z 536 [C28H27Cl2N5O2+H]+; HPLC 98.6% (AUC), tR=10.40 min.

reactant | {6-Bromo-4-[1-(1-methylpiperidin-3-yl)-1H-pyrazol-4-ylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.110 mmol, 53 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)C1CN(CCC1)C | C22H24BrN5O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.165 mmol, 47 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[1-(1-methylpiperidin-3-yl)-1H-pyrazol-4-ylamino]quinolin-3-yl}methanone | 50 mg, 84% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NN(C1)C1CN(CCC1)C)C1=CC(=C(C(=C1)Cl)O)Cl | C28H27Cl2N5O2
